US07485283B2
6e. 2-(4-tert-butylbenzyl)thio-3-hydroxymethyl chromen-4-one
2-(4-Tertbutylbenzyl)thio-3-((2-tetrahydropyranyloxy)methyl) chromen-4-one (5.5 g, 12.55 mmol) is dissolved in tetrahydrofuran in a 50 mL round bottom flask. Acetic acid and water are then added such that the ratio of THF:Acetic acid:Water is 4:2:1 (28 mL). The flask is warmed to 45° C. and the mixture stirred for 3 hours. After cooling the flask the contents are poured into a separatory funnel and the aqueous layer extracted with ethyl acetate. The organic layer is then washed with water and brine and dried over sodium sulfate and filtered. The filtrate is concentrated in vacuo and the residue obtained is purified by silica gel flash chromatography (ethyl acetate:hexanes) to give the above-mentioned product.

reactant | 2-(4-Tertbutylbenzyl)thio-3-((2-tetrahydropyranyloxy)methyl) chromen-4-one | 12.55 mmol, 5.5 g | C(C)(C)(C)C1=CC=C(CSC=2OC3=CC=CC=C3C(C2COC2OCCCC2)=O)C=C1 | C26H30O4S
reactant | Acetic acid | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 2-(4-tert-butylbenzyl)thio-3-hydroxymethyl chromen-4-one | C(C)(C)(C)C1=CC=C(CSC=2OC3=CC=CC=C3C(C2CO)=O)C=C1 | C21H22O3S
